US06515124B2
A 1M solution of sulfuryl chloride in dichloromethane (25 mL, 25 mmol) was added to a solution of 4-methyl-3-oxopentanoic acid ethyl ester (3.95 g, 25 mmol) in dichloromethane (15 mL) cooled in a water bath. The solution was stirred at room temperature for 2 h and then the reaction mixture was washed with water (2×20 mL). Each of the aqueous layers was extracted with dichloromethane and the combined organic layers were dried (MgSO4), filtered and evaporated to give 2-chloro-4-methyl-3-oxopentanoic acid ethyl ester (5.0 g, 104% of the theoretical amount). This was used directly in the next step without purification.

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-methyl-3-oxopentanoic acid ethyl ester | 25 mmol, 3.95 g | C(C)OC(CC(C(C)C)=O)=O | C8H14O3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mmol, 25 mL | ClCCl | CH2Cl2
product | 2-chloro-4-methyl-3-oxopentanoic acid ethyl ester | C(C)OC(C(C(C(C)C)=O)Cl)=O | C8H13ClO3
